US05342953
To a solution of N-hydroxyethyl-2-chlorobenzylamine (1.86g, 10.0mmole) in dry methylene chloride (6ml) in a reaction vessel fitted with a calcium chloride (CaCl2) drying tube was added dry pyridine (1.66ml, 20.5mmole). The solution was stirred and cooled to -50° C. Sulfuryl chloride (1.35g, 10.0mmole) dissolved in dry methylene chloride (4ml) was added dropwise over 20 minutes while the temperature of the solution was maintained between -45° C. and -50° C. The solution was stirred at -50° C. for 90 minutes and then allowed to warm to 8° C over 90 minutes. The entire reaction mixture was poured onto a silica gel bed (30g), slurry-packed in a 60ml Type "C" sintered glass funnel. The bed was eluted with methylene chloride while collecting 40ml fractions. Fractions containing the product were combined and the solvent removed by evaporation under vacuum at 40° C. yielding N-(2-chlorobenzyl)- 2,2-dioxo-1,2,3-oxathiazolidine as a clear oil (0.40g, 1.85mmole), which crystallized. Characteristic analytical data are mp. 61°-62.5° C.; and NMR spectra similar to those of Example 2A (above).

reactant | N-hydroxyethyl-2-chlorobenzylamine | 10.0mmole, 1.86g | OCCNCC1=C(C=CC=C1)Cl | C9H12ClNO
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | pyridine | 20.5mmole, 1.66ml | N1=CC=CC=C1 | C5H5N
reactant | Sulfuryl chloride | 10.0mmole, 1.35g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | 6ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4ml | C(Cl)Cl | CH2Cl2
product | N-(2-chlorobenzyl)- 2,2-dioxo-1,2,3-oxathiazolidine | 1.85mmole, 0.40g | ClC1=C(CN2S(OCC2)(=O)=O)C=CC=C1 | C9H10ClNO3S
